US07629342B2
To a round bottom flask was added N′-(4-(4-chlorophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5-(pyridin-4-yl)-1,6-dihydropyridazin-3-yl)propionohydrazide (130 mg, 0.239 mmol) and toluene (5 ml). The reaction was heated at 130° C. and stirred at this temperature for 1 hr. After this time, POCl3 (1.3 ml) was added and the reaction was stirred at 130° C. for additional 4 hrs. The reaction mixture was then cooled to rt and concentrated under reduced pressure. The residue was dissolved in EtOAc (30 ml). The resulting solution was poured into a separatory funnel and wash with 0.5N NaOH (10 ml), water (15 ml) and saturated aqueous NaCl (10 ml). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give the crude product. The crude product was purified using an automated column chromatography system (ISCO, 4 gm silica gel) eluting 65%-100% EtOAc/Hex to give product 8-(4-chlorophenyl)-3-ethyl-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-6(5H)-one (80 mg) as off-white solid in 64% yield. HPLC retention time (method A) 2.110 min; LCMS (M+H)=525.2; 1HNMR (CDCl3, 500 Hz): 8.59 (2H, d, J=4.4 Hz), 7.56 (1H, d, J=7.7 Hz), 7.44, (1H, d, J=7.7 Hz), 7.3417 (4H, m), 7.18 (2H, d, J=4.4 Hz), 5.64 (2H, s), 2.82 (2H, q), 2.79 (3H, s), 1.46 (3H, t). 13C-NMR (CDCl3, 500 Hz) 158.3, 154.4, 148.9, 144.0, 140.8, 138.2, 136.2, 133.3, 131.8, 131.6, 129.0, 128.8, 126.8, 125.8, 118.3, 49.1, 22.4, 20.8, 12.3.

reactant | N′-(4-(4-chlorophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5-(pyridin-4-yl)-1,6-dihydropyridazin-3-yl)propionohydrazide | 0.239 mmol, 130 mg | ClC1=CC=C(C=C1)C=1C(=NN(C(C1C1=CC=NC=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)NNC(CC)=O | C26H22ClF3N6O2
reactant | POCl3 | 1.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(4-chlorophenyl)-3-ethyl-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-6(5H)-one | 80 mg, 64% yield | ClC1=CC=C(C=C1)C=1C=2N(N(C(C1C1=CC=NC=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)C(=NN2)CC | C26H20ClF3N6O
